US08097610B2
To a mixture of [2-chloro-5-(methoxymethoxy)phenyl]acetonitrile (2.60 g; 12.3 mmol), sodium hydroxide (2.46 g; 61.5 mmol), water (10.4 ml) and ethanol (33.8 ml) was stirred at 80° C. for 3 hours. After cooling, the solvent was evaporated under reduced pressure. To the residue was added water and 2N-aqueous hydrochloric acid to become acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure. To the residue, were added concentrated hydrochloric acid (0.65 ml) and ethanol (15 ml). The mixture was stirred at 80° C. for 8 hours. After cooling, the reaction solution was condensed under reduced pressure. The residue was purified by column chromatograph on silica gel (hexane:ethyl acetate=2:1) to give [2-chloro-5-hydroxyphenyl]ethyl acetate as colorless oil (0.69 g; 26%).

reactant | [2-chloro-5-(methoxymethoxy)phenyl]acetonitrile | 12.3 mmol, 2.60 g | ClC1=C(C=C(C=C1)OCOC)CC#N | C10H10ClNO2
reactant | sodium hydroxide | 61.5 mmol, 2.46 g | [OH-].[Na+]
reactant | water | 10.4 ml | O | H2O
reactant | ethanol | 33.8 ml | C(C)O | C2H6O
product | [2-chloro-5-hydroxyphenyl]ethyl acetate | C(C)(=O)OCCC1=C(C=CC(=C1)O)Cl | C10H11ClO3
